US06248756B1
Step C. Preparation of Methyl 1-[3-(4-cyanobenzyl)-3H-imidazol-4-ylmethyl]-4-(3-methylbenzoyl)piperidine-4-carboxylate
A solution of methyl 4-(3-methylbenzoyl)piperidine-4-carboxylate hydrochloride salt (58 mg, 0.2 mmol), l-(4-cyanobenzyl)-5-chloromethylimidazole hydrochloride salt (52 mg, 0.19 mmol), and diisopropylethylamine (174 μL, 1 mmol) in anhydrous acetonitrile (4 mL) was heated at 60° C. overnight. The resultant mixture was concentrated under vacuum, and the residue was partitioned between saturated aqueous sodium bicarbonate and ethyl acetate. The organic extract was washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluting with 2.5% methanol in ethyl acetate. Collection and concentration of appropriate fractions provided the title compound.

reactant | methyl 4-(3-methylbenzoyl)piperidine-4-carboxylate hydrochloride salt | 0.2 mmol, 58 mg | Cl.CC=1C=C(C(=O)C2(CCNCC2)C(=O)OC)C=CC1
reactant | l-(4-cyanobenzyl)-5-chloromethylimidazole hydrochloride salt | 0.19 mmol, 52 mg | Cl.C(#N)C1=CC=C(CN2C=NC=C2CCl)C=C1
reactant | diisopropylethylamine | 1 mmol, 174 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | Methyl 1-[3-(4-cyanobenzyl)-3H-imidazol-4-ylmethyl]-4-(3-methylbenzoyl)piperidine-4-carboxylate | C(#N)C1=CC=C(CN2C=NC=C2CN2CCC(CC2)(C(=O)OC)C(C2=CC(=CC=C2)C)=O)C=C1 | C27H28N4O3
